data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_184492_0,[C:1](/[C:4]([C:5]([C:2]([H:12])([H:13])[H:14])([C:3]([H:15])([H:16])[H:17])[O:8][H:9])=[N:7]/[H:11])(=[O:6])[H:10]>>[C:1]([C:2]([H:12])([H:13])[H:14])(/[C:4]([C:5]([C:3]([H:15])([H:16])[H:17])=[O:8])=[N:7]/[H:11])([O:6][H:9])[H:10],59.95385999997566
MR_538922_1,[C:1]1([C:2]([H:14])([H:15])[H:16])([H:11])[C:4]([N:3]([O:7][H:9])[H:10])([C:5](=[C:6]([H:17])[H:18])[H:13])[N:8]1[H:12]>>[C:1]([C:2]([H:14])([H:15])[H:16])([N:3]([O:7][H:9])[H:10])(/[C:4]([C:5](=[C:6]([H:17])[H:18])[H:13])=[N:8]/[H:12])[H:11],71.57516000002616
MR_84688_1,[C:1]([N:2](/[C:4](=[N:6]/[N:3]([H:8])[H:9])[H:11])/[N:5]=[N:7]/[H:10])([H:12])([H:13])[H:14]>>[C:1](/[N:2]=[C:4](\[N:6]([N:3]([H:8])[H:9])[N:5][N:7][H:10])[H:11])([H:12])([H:13])[H:14],48.783104999964735
MR_410174_1,[C:1]1([H:11])([H:12])[N:3]([C:2]([H:14])([H:15])[H:16])[C:6]1([O:8][C:4]([N:5]([H:9])[H:10])=[O:7])[H:13]>>[C:1]([N:3]([C:2]([H:14])([H:15])[H:16])[C:4]([N:5]([H:9])[H:10])=[O:7])([C:6](=[O:8])[H:13])([H:11])[H:12],42.16423500001824
MR_89983_0,[C:1]1([H:10])([H:11])[C:3]2([N:5]([H:8])[H:9])[C:6]([H:12])=[C:4]([C:2]([H:13])([H:14])[H:15])[N:7]12>>[C:1]1([H:10])([H:11])[C:3]([N:5]([H:8])[H:9])=[C:6]([H:12])[C:4]([C:2]([H:13])([H:14])[H:15])=[N:7]1,3.850967499979277
MR_24305_0,[C:1](/[N:5]=[C:3](/[C:2]([H:11])([H:12])[H:13])[N:4]([H:6])[H:7])([H:8])([H:9])[H:10]>>[C:1]([N:5]([C:3](=[C:2]([H:11])[H:12])[N:4]([H:6])[H:7])[H:13])([H:8])([H:9])[H:10],60.38620749998984
MR_263921_1,[C:1]([C:3]([O:5][H:8])=[O:7])(/[N:6]=[C:4](\[C:2]([H:12])([H:13])[H:14])[H:11])([H:9])[H:10]>>[C:1]1([H:9])([H:10])[C:3](=[O:7])[N:6]1[C:4]([C:2]([H:12])([H:13])[H:14])([O:5][H:8])[H:11],71.90208750002114
MR_271592_0,[C:1]([N:2]([H:8])[H:9])([O:4][O:3][O:5][H:7])=[O:6]>>[C:1]([N:2]([H:8])[H:9])(=[O:4])[O:6][O:3][O:5][H:7],43.78067500000341
MR_536316_1,[C:1]([O:7][C:2]1([H:12])[C:4]([H:15])([H:16])[C:3]([H:13])([H:14])[C:6]1([C:5]([H:17])([H:18])[H:19])[O:9][H:10])(=[O:8])[H:11]>>[C:1]1([O:8][H:10])([H:11])[C:3]([H:13])([H:14])[C:4]([H:15])([H:16])[C:2]([C:6]([C:5]([H:17])([H:18])[H:19])=[O:9])([H:12])[O:7]1,64.015667500029
MR_35320_0,[C@@:1]([C:4]([N:6]([H:11])[H:12])=[O:9])(/[C:5]([C:3]([H:18])([H:19])[H:20])=[N:8]\[C:2]([H:15])([H:16])[H:17])([N:7]([H:13])[H:14])[H:10]>>[C:1](=[C:5](\[C:3]([H:18])([H:19])[H:20])[N:8]([C:2]([H:15])([H:16])[H:17])[C:4]([N:6]([H:11])[H:12])=[O:9])(\[N:7]([H:13])[H:14])[H:10],55.62599249998769
MR_703863_1,[C:1]([C:4]([C:2]([H:16])([H:17])[H:18])=[C:3]([N:5]([H:9])[H:10])[N:6]([H:11])[H:12])([C:7](=[O:8])[H:13])([H:14])[H:15]>>[C:1](=[C:4]([C:2]([H:16])([H:17])[H:18])[C:3]([N:5]([H:9])[H:10])([N:6]([H:11])[H:12])[C:7](=[O:8])[H:13])([H:14])[H:15],61.82882999998583
MR_172347_1,[C:1](/[N:9]=[C:3]([C:4](=[C:5](/[C:2]([H:19])([H:20])[H:21])[N:8]([H:14])[H:15])\[N:7]([H:12])[H:13])/[N:6]([H:10])[H:11])([H:16])([H:17])[H:18]>>[C:1]([N:9]1[C:3]([N:6]([H:10])[H:11])=[C:4]([N:7]([H:12])[H:13])[C:5]1([C:2]([H:19])([H:20])[H:21])[N:8]([H:14])[H:15])([H:16])([H:17])[H:18],44.214905000012834
MR_57493_1,[C:1]1([C:3]([H:16])([H:17])[H:18])([H:11])[N:4]([H:10])[C:2]([O:7][H:9])([H:14])[C:5]1([N:6]([H:12])[H:13])[O:8][H:15]>>[C:1]([C:3]([H:16])([H:17])[H:18])([N:4]([C:2]([O:7][H:9])([H:14])[H:15])[H:10])([C:5]([N:6]([H:12])[H:13])=[O:8])[H:11],55.23819750000371
MR_667446_0,[C:1]([C@:2]([C:3]([H:15])([H:16])[H:17])([O:7][H:9])[H:10])([N:4]([H:11])[H:12])([N:5]([H:13])[H:14])[N:8]=[C:6]([H:18])[H:19]>>[C:1]([C@@:2]([C:3]([H:15])([H:16])[H:17])([N:8][C:6]([H:18])[H:19])[H:10])([N:4]([H:11])[H:12])([N:5]([H:13])[H:14])[O:7][H:9],69.25842999998991
MR_697630_1,[C:1]([C:2]([H:14])([H:15])[H:16])(/[C:4]([C:3]([H:17])([H:18])[H:19])=[C:6](/[N:5]([H:11])[H:12])[H:13])(/[N:7]=[N:8]/[H:10])[H:9]>>[C:1](\[C:2]([H:14])([H:15])[H:16])(=[C:4](/[C:3]([H:17])([H:18])[H:19])[C:6]([N:5]([H:11])[H:12])(/[N:7]=[N:8]/[H:10])[H:13])[H:9],39.55760000000055
MR_117281_0,[C:1]([N:5]([N:6]([C:2]([H:13])([H:14])[H:15])[H:9])/[C:7]([C:4]([H:19])([H:20])[H:21])=[N:8]\[C:3]([H:16])([H:17])[H:18])([H:10])([H:11])[H:12]>>[C:1](/[N:5]=[C:7](\[C:4]([H:19])([H:20])[H:21])[N:8]([C:3]([H:16])([H:17])[H:18])[N:6]([C:2]([H:13])([H:14])[H:15])[H:9])([H:10])([H:11])[H:12],72.94248250003392
MR_420299_1,[C:1]([C:4]([C:3]12[N:2]([H:9])[N:6]1[C:5]([H:10])=[N:7]2)=[O:8])([H:11])([H:12])[H:13]>>[C:1]([C:4]([c:3]1[n:2]([H:9])[n:6][c:5]([H:10])[n:7]1)=[O:8])([H:11])([H:12])[H:13],20.223070000020016
MR_173604_2,[C:1]1([H:9])([H:10])[C:3]([C:2](=[O:4])[H:11])([H:12])[N:5]1[N:6]([H:7])[H:8]>>[C:1](/[C:3](=[C:2](\[O:4][H:7])[H:11])[H:12])(/[N:5]=[N:6]\[H:8])([H:9])[H:10],20.77966250000585
MR_120309_0,[C:1]([C:2]([H:11])([H:12])[H:13])([C:3]([H:14])([H:15])[H:16])([C:5]([C:6]([C:4]([H:17])([H:18])[H:19])=[O:9])=[O:8])[O:7][H:10]>>[C:1]([C:2]([H:11])([H:12])[H:13])([C:5]([C:3]([H:14])([H:15])[H:16])([C:6]([C:4]([H:17])([H:18])[H:19])=[O:9])[O:8][H:10])=[O:7],39.14595999996976
